** sch_path: /foss/designs/ENGN1600-Project/tb_realistic_postpex.sch
.SUBCKT tb_realistic_postpex

V_vdd vdd GND 3.3
V_RSTn RSTn GND 0
V_clk clk GND 0
V_EN EN GND 0
V_MODE MODE GND 0
V_MODEb MODEb GND 3.3
V_brain brain_node GND 1.65
V_bias_amp bias_amp GND 1.65
V_stim stim_drv GND 1.65
R_s brain_node tissue_node 1k m=1
R_ct tissue_node E_pin 50k m=1
C_dl tissue_node E_pin 300n m=1
R_drv IPG_pin stim_drv 100 m=1
C_pad_IPG IPG_pin GND 2p m=1
R_amp REC_pin bias_amp 1G m=1
C_pad_REC REC_pin GND 2p m=1
**** begin user architecture code

.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical




.SUBCKT ROW VDD SW_REC_pre SW_REC SW_RECb E REC RSTn EN CLK MODE SW_IPGb GND
+ EN_CFG EN_CFGb IPG MODEb SW_IPG_pre SW_IPG
M$1 $8 SW_REC_pre VDD VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.42P PS=3.3U
+ PD=1.84U
M$2 VDD SW_IPGb $8 VDD pfet_03v3 L=0.28U W=1U AS=0.42P AD=0.735P PS=1.84U
+ PD=2.47U
M$3 SW_REC $8 VDD VDD pfet_03v3 L=0.28U W=1U AS=0.735P AD=0.635P PS=2.47U
+ PD=3.27U
M$4 SW_RECb SW_REC VDD VDD pfet_03v3 L=0.28U W=1U AS=0.55P AD=0.65P PS=3.1U
+ PD=3.3U
M$5 REC SW_RECb E VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U PD=3.3U
M$6 $3 $13 VDD VDD pfet_03v3 L=0.28U W=1U AS=0.76P AD=0.65P PS=3.52U PD=3.3U
M$7 VDD $3 $4 VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U PD=3.3U
M$8 $4 RSTn VDD VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U PD=3.3U
M$9 $13 $2 $4 VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.59P PS=3.3U PD=3.18U
M$10 $5 EN $13 VDD pfet_03v3 L=0.28U W=1U AS=0.63P AD=0.605P PS=3.26U PD=3.21U
M$11 VDD $15 $5 VDD pfet_03v3 L=0.28U W=1U AS=0.63P AD=0.54P PS=3.26U PD=3.08U
M$12 VDD $2 $15 VDD pfet_03v3 L=0.28U W=1U AS=0.63P AD=0.64P PS=3.26U PD=3.28U
M$13 VDD CLK $2 VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U PD=3.3U
M$14 $6 MODE VDD VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.42P PS=3.3U PD=1.84U
M$15 VDD EN_CFG $6 VDD pfet_03v3 L=0.28U W=1U AS=0.42P AD=0.735P PS=1.84U
+ PD=2.47U
M$16 SW_REC_pre $6 VDD VDD pfet_03v3 L=0.28U W=1U AS=0.735P AD=0.64P PS=2.47U
+ PD=3.28U
M$17 $55 $53 VDD VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U PD=3.3U
M$18 $85 $55 $53 VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U PD=3.3U
M$19 VDD $15 $85 VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U PD=3.3U
M$20 EN_CFG $55 VDD VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U
+ PD=3.3U
M$21 $58 $55 VDD VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U PD=3.3U
M$22 EN_CFGb $58 VDD VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U
+ PD=3.3U
M$23 $60 MODEb VDD VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.42P PS=3.3U
+ PD=1.84U
M$24 VDD EN_CFG $60 VDD pfet_03v3 L=0.28U W=1U AS=0.42P AD=0.735P PS=1.84U
+ PD=2.47U
M$25 SW_IPG_pre $60 VDD VDD pfet_03v3 L=0.28U W=1U AS=0.735P AD=0.63P PS=2.47U
+ PD=3.26U
M$26 $53 $2 $3 VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U PD=3.3U
M$27 $55 RSTn VDD VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U PD=3.3U
M$28 $61 SW_IPG_pre VDD VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.42P PS=3.3U
+ PD=1.84U
M$29 VDD SW_RECb $61 VDD pfet_03v3 L=0.28U W=1U AS=0.42P AD=0.735P PS=1.84U
+ PD=2.47U
M$30 SW_IPG $61 VDD VDD pfet_03v3 L=0.28U W=1U AS=0.735P AD=0.63P PS=2.47U
+ PD=3.26U
M$31 SW_IPGb SW_IPG VDD VDD pfet_03v3 L=0.28U W=1U AS=0.56P AD=0.65P PS=3.12U
+ PD=3.3U
M$32 IPG SW_IPGb E VDD pfet_03v3 L=0.28U W=1U AS=0.65P AD=0.65P PS=3.3U PD=3.3U
M$33 SW_REC $8 GND GND nfet_03v3 L=0.28U W=0.5U AS=0.2425P AD=0.315P PS=1.97U
+ PD=2.26U
M$34 SW_RECb SW_REC GND GND nfet_03v3 L=0.28U W=0.5U AS=0.2825P AD=0.315P
+ PS=2.13U PD=2.26U
M$35 SW_REC_pre $6 GND GND nfet_03v3 L=0.28U W=0.5U AS=0.2425P AD=0.3125P
+ PS=1.97U PD=2.25U
M$36 $52 SW_REC_pre GND GND nfet_03v3 L=0.28U W=1U AS=0.63P AD=0.42P PS=3.26U
+ PD=1.84U
M$37 $8 SW_IPGb $52 GND nfet_03v3 L=0.28U W=1U AS=0.42P AD=0.65P PS=1.84U
+ PD=3.3U
M$38 REC SW_REC E GND nfet_03v3 L=0.28U W=1U AS=0.63P AD=0.63P PS=3.26U PD=3.26U
M$39 $3 $13 GND GND nfet_03v3 L=0.28U W=1U AS=0.76P AD=0.61P PS=3.52U PD=3.22U
M$40 $33 $3 GND GND nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U PD=3.22U
M$41 $4 RSTn $33 GND nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U
+ PD=3.22U
M$42 $13 $15 $4 GND nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U
+ PD=3.22U
M$43 $34 EN $13 GND nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U PD=3.22U
M$44 GND $2 $34 GND nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.575P PS=3.22U
+ PD=3.15U
M$45 GND $2 $15 GND nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U PD=3.22U
M$46 GND CLK $2 GND nfet_03v3 L=0.28U W=1U AS=0.63P AD=0.67P PS=3.26U PD=3.34U
M$47 $46 MODE GND GND nfet_03v3 L=0.28U W=1U AS=0.63P AD=0.42P PS=3.26U
+ PD=1.84U
M$48 $6 EN_CFG $46 GND nfet_03v3 L=0.28U W=1U AS=0.42P AD=0.65P PS=1.84U
+ PD=3.3U
M$49 $53 $15 $3 GND nfet_03v3 L=0.28U W=1U AS=0.715P AD=0.61P PS=3.43U
+ PD=3.22U
M$50 $54 RSTn GND GND nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U
+ PD=3.22U
M$51 $55 $53 $54 GND nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U
+ PD=3.22U
M$52 $56 $55 $53 GND nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U
+ PD=3.22U
M$53 GND $2 $56 GND nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U PD=3.22U
M$54 EN_CFG $55 GND GND nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U
+ PD=3.22U
M$55 $58 $55 GND GND nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U
+ PD=3.22U
M$56 EN_CFGb $58 GND GND nfet_03v3 L=0.28U W=1U AS=0.61P AD=0.61P PS=3.22U
+ PD=3.22U
M$57 $80 MODEb GND GND nfet_03v3 L=0.28U W=1U AS=0.63P AD=0.42P PS=3.26U
+ PD=1.84U
M$58 $60 EN_CFG $80 GND nfet_03v3 L=0.28U W=1U AS=0.42P AD=0.65P PS=1.84U
+ PD=3.3U
M$59 SW_IPG_pre $60 GND GND nfet_03v3 L=0.28U W=0.5U AS=0.2425P AD=0.31P
+ PS=1.97U PD=2.24U
M$60 $79 SW_IPG_pre GND GND nfet_03v3 L=0.28U W=1U AS=0.63P AD=0.42P PS=3.26U
+ PD=1.84U
M$61 $61 SW_RECb $79 GND nfet_03v3 L=0.28U W=1U AS=0.42P AD=0.65P PS=1.84U
+ PD=3.3U
M$62 SW_IPG $61 GND GND nfet_03v3 L=0.28U W=0.5U AS=0.2425P AD=0.3275P
+ PS=1.97U PD=2.31U
M$63 SW_IPGb SW_IPG GND GND nfet_03v3 L=0.28U W=0.5U AS=0.285P AD=0.315P
+ PS=2.14U PD=2.26U
M$64 IPG SW_IPG E GND nfet_03v3 L=0.28U W=1U AS=0.63P AD=0.63P PS=3.26U PD=3.26U
.ENDS ROW

X0 vdd SW_REC_pre SW_REC SW_RECb E_pin REC_pin RSTn EN clk MODE SW_IPGb GND
+ EN_CFG EN_CFGb IPG_pin MODEb SW_IPG_pre SW_IPG ROW




.control
save all

** RSTn: low until 100ns then high
alter @V_RSTn[PWL] = [ 0 0  100n 0  100.001n 3.3  30m 3.3 ]

** Single latching clock pulse around 200ns
alter @V_clk[PWL] = [ 0 0  200n 0  200.001n 3.3  300n 3.3  300.001n 0  30m 0 ]

** EN: high after RSTn release
alter @V_EN[PWL] = [ 0 0  150n 0  150.001n 3.3  30m 3.3 ]

** MODE: stim phase 0-15ms (includes drain), record phase 15-30ms
alter @V_MODE[PWL]  = [ 0 0    15m 0    15.0001m 3.3   30m 3.3 ]
alter @V_MODEb[PWL] = [ 0 3.3  15m 3.3  15.0001m 0     30m 0 ]

** Brain LFP: 100uV sine at 1kHz on 1.65V mid-rail
alter @V_brain[SIN] = [ 1.65 10m 1k 0 0 0 ]

** Stim driver: biphasic pulses at 0.5/1.5/2.5/3.5/4.5 ms during stim phase,
** then held at mid-rail for 10 ms drain before MODE switches.
alter @V_stim[PWL] = [
+ 0          1.65
+ 500u       1.65
+ 500.001u   0.65
+ 600u       0.65
+ 600.001u   2.65
+ 700u       2.65
+ 700.001u   1.65
+ 1500u      1.65
+ 1500.001u  0.65
+ 1600u      0.65
+ 1600.001u  2.65
+ 1700u      2.65
+ 1700.001u  1.65
+ 2500u      1.65
+ 2500.001u  0.65
+ 2600u      0.65
+ 2600.001u  2.65
+ 2700u      2.65
+ 2700.001u  1.65
+ 3500u      1.65
+ 3500.001u  0.65
+ 3600u      0.65
+ 3600.001u  2.65
+ 3700u      2.65
+ 3700.001u  1.65
+ 4500u      1.65
+ 4500.001u  0.65
+ 4600u      0.65
+ 4600.001u  2.65
+ 4700u      2.65
+ 4700.001u  1.65
+ 30m        1.65 ]

tran 1u 30m 0 5u

** plots
set color0 = white
plot (v(MODE)/6.6)+1.4 v(REC_pin) v(E_pin) v(IPG_pin)/3 + (1.65-1.65/3)

write tb_realistic.raw
.endc


**** end user architecture code
.ENDS
.GLOBAL GND
